US05208244
B. Synthesis of (E)-6-(Bromomethylene)tetrahydro-2H-pyran-2-one
This compound was prepared according to the procedure set forth in Kraft et al, J. Am. Chem. Soc., 103, 5459-5466 (1981). A mixture of the 5-hexynoic acid of Part A (1.1 g, 9.8 mmol), KHCO3 (1.5 g, 15 mmol), N-bromosuccinimide (2.6 g, 15 mmol) and 0.4M aqueous tetrabutylammonium hydroxide (2 mL, 0.8 mmol) in CH2Cl2 (90 mL) was stirred at room temperature for 3.5 h. The mixture was washed with 5% Na2S2O3 and saturated NaCl. The organic phase was dried (MgSO4) and the solvent was removed in vacuo to give a residue weighing 1.8 g. The residue was purified by flash chromatography (silica gel, Aldrich catalog #22,719-6, 230-400 mesh). The column was eluted with CH2Cl2 and fractions having a spot with Rf =0.32 (CH2Cl2, Bakerflex IBF-2 silica TLC plates) were combined. The solvent was removed in vacuo to give 1.0 g (58% yield) of product as a colorless oil.

reactant | 5-hexynoic acid | C(CCCC#C)(=O)O | C6H8O2
reactant | N-bromosuccinimide | 15 mmol, 2.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | tetrabutylammonium hydroxide | 0.8 mmol, 0.4M, 2 mL | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH2Cl2 | 90 mL | C(Cl)Cl | CH2Cl2
product | (E)-6-(Bromomethylene)tetrahydro-2H-pyran-2-one | 1.0 g, 58% yield | Br\C=C\1/CCCC(O1)=O | C6H7BrO2
